US06211199B1
20.1 Synthesis of 1-benzyl-3-(phenylmethyl)-3-(2-hydroxyethyl)pyrrolidine
Combine 1-benzyl-3-(phenylmethyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-2-oxopyrrolidine (1.19 g, 2.81 mmol) and tetrahydrofuran (20 mL). Cool in an ice bath. Add dropwise a solution of lithium aluminum hydride (2.81 mL, 1 M in THF, 2.81 mmol). After the addition is complete, warm to ambient temperature. After 2 hours, heat to reflux. After 1 hour, cool to ambient temperature and cautiously add water (0.11 mL), a solution of 1 M sodium hydroxide (0.11 mL), and water (0.32 mL). Stir vigorously. After 2 hours, filter through celite and rinse with dichloromethane. Dry the filtrate over Na2SO4, filter, and concentrate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with ethyl acetate to give the title compound: Rf=0.34 (silica gel, 2% triethylamine/30% methanol/ethyl acetate).

reactant | 1-benzyl-3-(phenylmethyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-2-oxopyrrolidine | 2.81 mmol, 1.19 g | C(C1=CC=CC=C1)N1C(C(CC1)(CCO[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1)=O | C26H37NO2Si
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | 2.81 mmol, 1 M, 2.81 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1 M, 0.11 mL | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 0.32 mL | O | H2O
solvent | water | 0.11 mL | O | H2O
product | 1-benzyl-3-(phenylmethyl)-3-(2-hydroxyethyl)pyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)(CCO)CC1=CC=CC=C1 | C20H25NO
